US08664220B2
Step 1: N-[1-[5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-meth-(E)-ylidene]-methanesulfonamide
5-(4-Bromo-phenyl)-3-methyl-isoxazole-4-carbaldehyde (2 g, 7.5 mmol) was mixed with methanesulfonamide (0.714 g, 7.5 mmol) and p-toluenesulfonic acid monohydrate (0.010 g, 0.053 mmol) in toluene. The reaction was heated to reflux for 24 hours with Dean-Stark apparatus in place. Upon cooling the product precipitated from the reaction mixture and was isolated by filtration to afford the title compound.

reactant | 5-(4-Bromo-phenyl)-3-methyl-isoxazole-4-carbaldehyde | 7.5 mmol, 2 g | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C=O | C11H8BrNO2
reactant | methanesulfonamide | 7.5 mmol, 0.714 g | CS(=O)(=O)N | CH5NO2S
reactant | p-toluenesulfonic acid monohydrate | 0.053 mmol, 0.010 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-[1-[5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-meth-(E)-ylidene]-methanesulfonamide | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)\C=N\S(=O)(=O)C | C12H11BrN2O3S
